US04866091
A mixture of 3-(2,4-difluorophenoxy)-4-methanesulfonamidobenzoyl chloride (0.7 g) and potassium thiocyanate (0.73 g) in toluene (6 ml) was refluxed overnight. Ethyl mercaptan (0.68 ml) was added to the resulting mixture. The mixture was stirred for 5 hours at 60° C. and concentrated. The residue was dissolved in ethyl acetate and washed with water. The organic layer was dried and concentrated to give a yellow powder of ethyl N-[3-(2,4-difluorophenoxy)-4-methanesulfonamidobenzoyl]dithiocarbamate (0.83 g).

reactant | 3-(2,4-difluorophenoxy)-4-methanesulfonamidobenzoyl chloride | 0.7 g | FC1=C(OC=2C=C(C(=O)Cl)C=CC2NS(=O)(=O)C)C=CC(=C1)F | C14H10ClF2NO4S
reactant | potassium thiocyanate | 0.73 g | [S-]C#N.[K+]
reactant | Ethyl mercaptan | 0.68 ml | C(C)S | C2H6S
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl N-[3-(2,4-difluorophenoxy)-4-methanesulfonamidobenzoyl]dithiocarbamate | 0.83 g | FC1=C(OC=2C=C(C(=O)NC(SCC)=S)C=CC2NS(=O)(=O)C)C=CC(=C1)F | C17H16F2N2O4S3
